US04985422
1-(Chloromethyl)-2-methyl-1H-imidazole hydrochloride
Thionyl chloride (7.2 g) was added over 5 min to a stirred suspension of 1-(hydroxymethyl)-2-methyl-1H-imidazole (5.0 g) in a mixture of dichloromethane (50 ml) and DMF (0.5 ml) at 0°, and the mixture was stirred at 0° for 2h. It was then poured into dry ether (500 ml) and left for 1h. The cloudy supernatant was decanted from the insoluble colourless oil which separated. This oil was triturated with acetone (100 ml) with scratching to give a solid which was filtered off and dried to give the title compound (3.6 g), m.p. 122°-124°.

reactant | Thionyl chloride | 7.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(hydroxymethyl)-2-methyl-1H-imidazole | 5.0 g | OCN1C(=NC=C1)C | C5H8N2O
reactant | ether | 500 ml | CCOCC | C4H10O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 1-(Chloromethyl)-2-methyl-1H-imidazole hydrochloride | 3.6 g | Cl.ClCN1C(=NC=C1)C | InChI=1S/C5H7ClN2.ClH/c1-5-7-2-3-8(5)4-6;/h2-3H,4H2,1H3;1H
